US09024027B2
To a solution of benzyl 2-(5-(N-(2-bromoethyl)methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate (0.300 g, 0.606 mmol) in acetonitrile (6 ml), K2CO3 (0.126 g, 0.908 mmol) and 2-methoxyethanamine (0.079 ml, 0.908 mmol) were added, and the resulting mixture was heated under MW irradiation for 1 hour at 130° C. The insoluble inorganic salts were filtered off and the filtrate was evaporated to dryness. The crude was purified by flash chromatography on silica gel column (DCM:MeOH=95:5) affording benzyl 2-(5-(N-(2-(2-methoxyethylamino)ethyl)methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate (0.154 g, 0.315 mmol, 52.0% yield, MS/ESI+ 490.0 [MH]+).

reactant | benzyl 2-(5-(N-(2-bromoethyl)methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate | 0.606 mmol, 0.300 g | BrCCN(S(=O)(=O)C)C=1C=C2C(N(C(C2=CC1)=O)CC(=O)OCC1=CC=CC=C1)=O | C20H19BrN2O6S
reactant | K2CO3 | 0.908 mmol, 0.126 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-methoxyethanamine | 0.908 mmol, 0.079 ml | COCCN | C3H9NO
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | benzyl 2-(5-(N-(2-(2-methoxyethylamino)ethyl)methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate | 0.315 mmol, 0.154 g, 52.0% yield | COCCNCCN(S(=O)(=O)C)C=1C=C2C(N(C(C2=CC1)=O)CC(=O)OCC1=CC=CC=C1)=O | C23H27N3O7S
